US05811432
The mixture containing 3-amino-2-bis(ethoxycarbonyl)methyl-6-chloropyridine, 3-amino-6-bis(ethoxycarbonyl)methyl-2-chloropyridine and diethyl malonate was taken up in 6N HCl solution (700 mL) and heated at reflux for 5 hours. After removing the aqueous acid in vacuo, the residue was taken up in water and again concentrated to yield 5-chloro-4-azaoxindole as a brown solid which was dried in the air. The yield was 7.04 g. (32% overall from 2,6-dichloro-3-nitropyridine). An analytical sample was prepared by recrystallization from isopropanol; m.p. 250°-254° C. (dec.).

reactant | 3-amino-2-bis(ethoxycarbonyl)methyl-6-chloropyridine | NC=1C(=NC(=CC1)Cl)C(C(=O)OCC)C(=O)OCC | C12H15ClN2O4
reactant | 3-amino-6-bis(ethoxycarbonyl)methyl-2-chloropyridine | NC=1C(=NC(=CC1)C(C(=O)OCC)C(=O)OCC)Cl | C12H15ClN2O4
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | HCl | 6N, 700 mL | Cl | ClH
product | 5-chloro-4-azaoxindole | ClC=1N=C2CC(NC2=CC1)=O | C7H5ClN2O
